US08372307B2
Preparation of 4′-Pentyl-bicyclohexyl-4-carboxylic acid 3-(2-methyl-acryloyloxy)-propyl ester 2
A solution of methacrylic acid (3.5 g, 40.7 mmol) in dimethylformamide (100 ml) is added dropwise to an ice cooled slurry of sodium hydride (60% suspension in paraffin oil) (1.6 g, 40.0 mmol) in dimethylformamide (100 ml). Once addition is complete, the mixture is allowed to warm to room temperature and is stirred for 1 h, the intermediate 4′-pentyl-bicyclohexyl-4-carboxylic acid 3-bromo-propyl ester (15.0 g, 37.4 mmol) in dimethylformamide (100 ml) is added dropwise. The mixture is stirred at 50° C. overnight. The mixture is cooled to room temperature, poured into icy water, and this is extracted three times with DCM. The DCM solution is washed with brine, water and then dried over sodium sulphate. The solution is evaporated to dryness and recrystallised from industrial methylated spirits to afford a white crystalline solid.

reactant | methacrylic acid | 40.7 mmol, 3.5 g | C(C(=C)C)(=O)O | C4H6O2
reactant | sodium hydride | 40.0 mmol, 1.6 g | [H-].[Na+]
reactant | 4′-pentyl-bicyclohexyl-4-carboxylic acid 3-bromo-propyl ester | 37.4 mmol, 15.0 g | BrCCCOC(=O)C1CCC(CC1)C1CCC(CC1)CCCCC | C21H37BrO2
reactant | water | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 4′-Pentyl-bicyclohexyl-4-carboxylic acid 3-(2-methyl-acryloyloxy)-propyl ester | CC(C(=O)OCCCOC(=O)C1CCC(CC1)C1CCC(CC1)CCCCC)=C | C25H42O4
